US09238656B2
Synthesis of (1S,2S,3R,4R)-3-(6-Chloro-2-{4-[1-((S)-2-hydroxy-3-methoxy-propyl)-piperidin-4-yl]-2-methoxy-phenyl}-3H-imidazo[4,5-b]pyridin-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXIX)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (109 mg, 0.373 mmol) and 4-[1-((S)-2-Hydroxy-3-methoxy-propyl)-piperidin-4-yl]-2-methoxy-benzaldehyde (126 mg, 0.410 mmol) were reacted to produce 102 mg (47%) of the title compound. mp: 189-191° C., 1H NMR (300 MHz, CDCl3): 10.67 (s, 1H), 8.35 (d, J=8 Hz, 1H), 8.04 (s, 1H), 7.04 (d, J=8 Hz, 1H), 6.94 (s, 1H), 6.39-6.35 (m, 3H), 5.51 (d, J=8 Hz, 1H), 5.19 (t, J=8 Hz, 1H), 5.07 (s, 1H), 4.08 (s, 3H), 3.89 (m, 1H), 3.19 (s, 2H), 2.98 (d, 1H), 2.91 (s, 1H), 2.88 (d, J=8 Hz, 1H), 2.62 (m, 1H), 2.46-2.22 (m, 5H). MS: 581 (M+H), HPLC: 1.90 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.373 mmol, 109 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 4-[1-((S)-2-Hydroxy-3-methoxy-propyl)-piperidin-4-yl]-2-methoxy-benzaldehyde | 0.410 mmol, 126 mg | O[C@@H](CN1CCC(CC1)C1=CC(=C(C=O)C=C1)OC)COC | C17H25NO4
product | (1S,2S,3R,4R)-3-(6-Chloro-2-{4-[1-((S)-2-hydroxy-3-methoxy-propyl)-piperidin-4-yl]-2-methoxy-phenyl}-3H-imidazo[4,5-b]pyridin-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 102 mg, 47% | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)C2CCN(CC2)C[C@@H](COC)O)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C30H37ClN6O4
